US03971773
C. 9,11β,21-Trichloro-17-hydroxy-16α-(2-oxo-2-phenylethoxy)pregna-1,4-diene-3,20-dione
A solution of 9,11β-dichloro-17,21-dihydroxy-16α-(2-oxo-2-phenylethoxy)pregna-1,4-diene-3,20-dione, 21-methanesulfonate (1 mmole) in 20 ml of dimethylformamide is heated at 80°C for 3 hours with 1 g of lithium chloride, cooled, diluted with water and filtered to give the title compound.

reactant | 9,11β-dichloro-17,21-dihydroxy-16α-(2-oxo-2-phenylethoxy)pregna-1,4-diene-3,20-dione | Cl[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CO)=O)([C@]1(C[C@@H]2Cl)C)O)OCC(C2=CC=CC=C2)=O)=O)C | C29H32Cl2O6
reactant | lithium chloride | 1 g | [Cl-].[Li+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 9,11β,21-Trichloro-17-hydroxy-16α-(2-oxo-2-phenylethoxy)pregna-1,4-diene-3,20-dione | Cl[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CCl)=O)([C@]1(C[C@@H]2Cl)C)O)OCC(C2=CC=CC=C2)=O)=O)C | C29H31Cl3O5
